US04931450
Cyclopropyl-(2-methylphenyl)-(N-methylpyrrol-2-yl)methanol
To a suspension of magnesium turnings (1.72 g, 0.071 mole) in anhydrous tetrahydrofuran (20 ml), 2-bromotoluene (12.1 g, 0.071 mole) in tetrahydrofuran (100 ml) was added dropwise under nitrogen. The reaction mixture was heated at reflux for 1 h after the initial exotherm had subsided before cyclopropyl-(N-methylpyrrol-2-yl)ketone (7.1 g, 0.047 mole) (J. Org. Chem., (1971), 36, 2897; J.Org.Chem. (1980), 45, 3172) in anhydrous tetrahydrofuran (100 ml) was introduced. After heating the reaction mixture at reflux for 2 h it was left overnight at room temperature. Saturated, aqueous ammonium chloride solution (100 ml) was added, and the mixture was extracted with diethyl ether (3×200 ml). The combined extracts were dried (MgSO4) and the solvents evaporated. The residue was flash chromatografied on silica gel eluting with n-heptane/tetrahydrofuran (19:1) providing the title compound as a solid (10.9 g).

reactant | magnesium | 0.071 mole, 1.72 g | [Mg] | Mg
reactant | 2-bromotoluene | 0.071 mole, 12.1 g | BrC1=C(C=CC=C1)C | C7H7Br
reactant | cyclopropyl-(N-methylpyrrol-2-yl)ketone | 0.047 mole, 7.1 g | C1(CC1)C(=O)C=1N(C=CC1)C | C9H11NO
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Cyclopropyl-(2-methylphenyl)-(N-methylpyrrol-2-yl)methanol | 10.9 g | C1(CC1)C(O)(C=1N(C=CC1)C)C1=C(C=CC=C1)C | C16H19NO
